US07145012B2
Preparation of Intermediate 2-(4-Chloro-phenyl)-1-(2-chloro-phenyl)-5-(2-oxo-ethyl)-1H-imidazole-4-carboxylic acid ethyl ester (I-5h)
A solution of 2-(4-chloro-phenyl)-1-(2-chloro-phenyl)-5-(2-methoxy-vinyl)-1H-imidazole-4-carboxylic acid ethyl ester I-5g (275 mg, 0.659 mmol) and H2SO4 (200 μl) in 5:1 THF/H2O (18 ml) was heated at 70° C. for 3 hours. The reaction mixture was cooled to room temperature and treated with 1M K2CO3 until the pH of the reaction mixture was ˜6. The aqueous solution was extracted with CH2Cl2 and the combined organic extracts were washed with sat'd aq. NaCl, dried, and concentrated in vacuo to give a mixture of the starting material and product (I-5h): +APCI MS (M+1) 403.3

reactant | 2-(4-chloro-phenyl)-1-(2-chloro-phenyl)-5-(2-methoxy-vinyl)-1H-imidazole-4-carboxylic acid ethyl ester | 0.659 mmol, 275 mg | C(C)OC(=O)C=1N=C(N(C1C=COC)C1=C(C=CC=C1)Cl)C1=CC=C(C=C1)Cl | C21H18Cl2N2O3
reactant | H2SO4 | 200 μl | OS(=O)(=O)O | H2O4S
reactant | K2CO3 | 1M | C(=O)([O-])[O-].[K+].[K+]
solvent | THF H2O | 18 ml | C1CCOC1.O
product | 2-(4-Chloro-phenyl)-1-(2-chloro-phenyl)-5-(2-oxo-ethyl)-1H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(N(C1CC=O)C1=C(C=CC=C1)Cl)C1=CC=C(C=C1)Cl | C20H16Cl2N2O3
